US08349880B2
Step AL (1): 2-(3,5-Difluorophenyl)acetic acid (2.5 g, 14.5 mmol) was deprotonated with NaHMDS (1.0 M in THF, 29.0 mL, 29.0 mmol) and reacted with 1-chloro-4-iodobutane (1.78 mL, 14.5 mmol) using a procedure analogous to Step AC (1) to afford 6-chloro-2-(3,5-difluorophenyl)hexanoic acid (3.25 g, 85% yield). LC-MS (m-H)− 261.1. The crude product was used for subsequent chemistry without purification.

reactant | 2-(3,5-Difluorophenyl)acetic acid | 14.5 mmol, 2.5 g | FC=1C=C(C=C(C1)F)CC(=O)O | C8H6F2O2
reactant | NaHMDS | 29.0 mmol, 1.0 M, 29.0 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1-chloro-4-iodobutane | 14.5 mmol, 1.78 mL | ClCCCCI | C4H8ClI
product | 6-chloro-2-(3,5-difluorophenyl)hexanoic acid | 3.25 g, 85% yield | ClCCCCC(C(=O)O)C1=CC(=CC(=C1)F)F | C12H13ClF2O2
